### PR TITLE
[Merged by Bors] - feat(MeasureTheory.VectorMeasure):  variation defined as a supremum is equal to variation defined using the Hahn-Jordan decomposition

### PR DESCRIPTION
**Pull request by oliver-butterley**
Add `totalVariation_eq_variation`: if `μ` is a `SignedMeasure` then variation defined as a supremum (`MeasureTheory.VectorMeasure.variation`) is equal to variation defined using the Hahn-Jordan decomposition (`MeasureTheory.SignedMeasure.totalVariation`) .

- [x] depends on #26165

Co-authored-by: @yoh-tanimoto

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/Jordan.lean [hunk 1]
```diff
@@ -454,20 +455,41 @@ theorem toJordanDecomposition_eq {s : SignedMeasure α} {j : JordanDecomposition
...
+/-- The pointwise bound `‖s i‖ ≤ s.totalVariation.real i` for any signed measure. -/
+theorem norm_le_totalVariation (s : SignedMeasure α) (i : Set α) :
+    ‖s i‖ ≤ s.totalVariation.real i := by
+  by_cases hi : MeasurableSet i
+  · rw [s.apply_eq_posPart_real_sub_negPart_real hi, totalVariation, measureReal_add_apply]
+    grind [measureReal_nonneg, Real.norm_eq_abs]
+  · simp [s.not_measurable' hi, measureReal_nonneg]
+
+/-- The pointwise bound `‖s i‖ₑ ≤ s.totalVariation i` for any signed measure. -/
+theorem enorm_le_totalVariation (s : SignedMeasure α) (i : Set α) :
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/Jordan.lean]: we already have `MeasureTheory.VectorMeasure.enorm_measure_le_variation`.

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/Jordan.lean [hunk 2]
```diff
@@ -454,20 +455,41 @@ theorem toJordanDecomposition_eq {s : SignedMeasure α} {j : JordanDecomposition
...
   simp [totalVariation, toJordanDecomposition_neg, add_comm]
 
+/-- Pointwise form of `toSignedMeasure_toJordanDecomposition`. -/
+theorem apply_eq_posPart_real_sub_negPart_real (s : SignedMeasure α) {i : Set α}
+    (hi : MeasurableSet i) :
+    s i = s.toJordanDecomposition.posPart.real i - s.toJordanDecomposition.negPart.real i := by
+  grind [Measure.toSignedMeasure_sub_apply, toSignedMeasure, toSignedMeasure_toJordanDecomposition]
+
+/-- The pointwise bound `‖s i‖ ≤ s.totalVariation.real i` for any signed measure. -/
+theorem norm_le_totalVariation (s : SignedMeasure α) (i : Set α) :
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Decomposition/Jordan.lean]: we already have `MeasureTheory.VectorMeasure.norm_measure_le_variation`, which is applicable with the instance `IsFiniteMeasure s.totalVariation`.

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+Copyright (c) 2025 Oliver Butterley. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Oliver Butterley, Yoh Tanimoto
+-/
+module
+
+public import Mathlib.MeasureTheory.VectorMeasure.Decomposition.Jordan
+public import Mathlib.MeasureTheory.VectorMeasure.Variation.Basic
+/-!
+# Equivalence of variation definitions for signed measures
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean:11]: perhaps the file name should be `Signed.lean`?

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean [hunk 4]
```diff
@@ -0,0 +1,97 @@
...
+  simp only [id_eq] at h
+  rw [Function.onFun, disjoint_iff, ← hinf, h, hbot]
+
+end Finpartition
+
+namespace MeasureTheory.SignedMeasure
+
+variable {X : Type*} {mX : MeasurableSpace X} (μ : SignedMeasure X)
+
+lemma toMeasureOfZeroLE_apply_eq_enorm {i j : Set X} (him : MeasurableSet i) (hi : 0 ≤[i] μ)
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean]: I guess this should be in `Mathlib.MeasureTheory.VectorMeasure.Basic` (or actually everything about `SignedMeasure` should be in a separate file?). same for `LeZero`

File: Mathlib/MeasureTheory/VectorMeasure/Decomposition/Jordan.lean (hunk 2 above)
Comment (oliver-butterley) [reply Mathlib/MeasureTheory/VectorMeasure/Decomposition/Jordan.lean]: yes, but at some point we still need the equivalent for variation defined using jordan decomposition because these estimates are used in the proof of equality of the two definitions

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean (hunk 3 above)
Comment (oliver-butterley) [reply Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean:11]: yes, it should! good call

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean [hunk 5]
```diff
@@ -0,0 +1,93 @@
...
+
+-/
+
+public section
+
+open scoped ENNReal NNReal
+
+namespace MeasureTheory.SignedMeasure
+
+variable {X : Type*} {mX : MeasurableSpace X} (μ : SignedMeasure X)
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean:31]: should the `MeasurableSpace` instane be named?

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean [hunk 6]
```diff
@@ -0,0 +1,93 @@
...
+      _ = ‖μ (s ∩ r)‖ₑ + ‖μ (sᶜ ∩ r)‖ₑ := by
+          rw [totalVariation, Measure.add_apply, hposPart, hnegPart,
+            μ.toMeasureOfZeroLE_apply_eq_enorm hs hpos hr,
+            μ.toMeasureOfLEZero_apply_eq_enorm hs.compl hneg hr]
+      _ ≤ μ.variation (s ∩ r) + μ.variation (sᶜ ∩ r) :=
+          add_le_add (μ.enorm_measure_le_variation _) (μ.enorm_measure_le_variation _)
+      _ = μ.variation ((s ∩ r) ∪ (sᶜ ∩ r)) :=
+        (measure_union (by grind) (hs.compl.inter hr)).symm
+      _ = μ.variation r := by
+          rw [← Set.union_inter_distrib_right, Set.union_compl_self, Set.univ_inter]
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean]:
```suggestion
          congr; grind
```
better?

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean [hunk 7]
```diff
@@ -0,0 +1,93 @@
...
+    apply iSup_le
+    intro P
+    calc ∑ p ∈ P.parts, ‖μ p.val‖ₑ
+      _ ≤ ∑ p ∈ P.parts, μ.totalVariation p.val :=
+          Finset.sum_le_sum fun p _ => enorm_le_totalVariation μ p.val
+      _ = μ.totalVariation (⋃ p ∈ P.parts, p.val) :=
+          (measure_biUnion_finset (P.pairwiseDisjoint_apply (fun _ _ => rfl) rfl)
+            (fun p _ => p.prop)).symm
+      _ = μ.totalVariation r := by
+        simp [← Finset.sup_set_eq_biUnion, P.sup_parts_apply]
```
Comment (yoh-tanimoto) [inline Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean]: maybe `⋃ p ∈ P.parts, p.val = r` is worth a lemma?

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean:31]: Since it can always be inferred from the measure in this file, it is correct to have it an implicit variable (and not a typeclass). And we usually give names to implicit arguments.

Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean:31]: I see, thanks for your explanation!

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean (hunk 6 above)
Comment (oliver-butterley) [reply Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean]: yes, i think it's better. thanks!

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean (hunk 5 above)
Comment (oliver-butterley) [reply Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean:31]: thanks for the explanation!

File: Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean (hunk 7 above)
Comment (oliver-butterley) [reply Mathlib/MeasureTheory/VectorMeasure/Variation/SignedMeasure.lean]: That makes sense to me. We could have:
```lean
lemma Finpartition.set_biUnion_coe_parts {s : Set X} {hs : MeasurableSet s}
    (P : Finpartition (⟨s, hs⟩ : Subtype MeasurableSet)) :
    ⋃ p ∈ P.parts, (p : Set X) = s := by
  simp [← Finset.sup_set_eq_biUnion, P.sup_parts_apply]
```

However I noticed that Gouezel added some more variation lemmas since I started this PR so I was able to update the proof of `totalVariation_eq_variation` using those and now this lemma wouldn't be used for anything here. 

However it still seems the right lemma to have and it would make the proof of `sum_finpartition` more elegant. This seems to belong in a separate PR.

**Comment by oliver-butterley** [comment]
I noticed that some more results related to variation had been added during the course of this PR so I updated the main proof to take advantage of this and is now much shorter.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
